US06203785B1
Synthesis of N-decyldiallylmethylammonium bromide.
Diallylmethylamine (33.3 g) and 1-bromodecane (66.6 g) were dissolved in 100 mL methanol and the reaction mixture was stirred at 65° C. for 48 hours. After cooling to room temperature, the methanol was removed under reduced pressure. The residual viscous oil was precipitated into 800 mL dry ether with rapid stirring. The ether layer was decanted and the residue was again treated with 500 mL dry ether. After stirring for 15 minutes the solvent was removed and the oily residue was dried under vacuum at 35° C. for 48 hours, yielding 78 g of the product.

reactant | Diallylmethylamine | 33.3 g | C(C=C)C(CC=C)N | C7H13N
reactant | 1-bromodecane | 66.6 g | BrCCCCCCCCCC | C10H21Br
solvent | methanol | 100 mL | CO | CH4O
product | N-decyldiallylmethylammonium bromide | 78 g | [Br-].C(CCCCCCCCC)[NH2+]C(CC=C)CC=C | InChI=1S/C17H33N.BrH/c1-4-7-8-9-10-11-12-13-16-18-17(14-5-2)15-6-3;/h5-6,17-18H,2-4,7-16H2,1H3;1H
